US04595535
To a solution of 2 g of 5-methylmercapto-3-(o-nitrobenzyl)-1,2,4-triazole in 45 ml of tetrahydrofuran is added 44 ml of 20% aqueous titanium trichloride dropwise at 0°. The mixture is stirred at room temperature overnight, diluted with water, cooled to 0°, basified with ammonium hydroxide and extracted three times with methylene chloride. The organic extracts are dried and evaporated and the residue is crystallized from toluene to give 3-(o-aminobenzyl)-5-methylmercapto-1,2,4-triazole, m.p. 99°-102°.

reactant | 5-methylmercapto-3-(o-nitrobenzyl)-1,2,4-triazole | 2 g | CSC1=NC(=NN1)CC1=C(C=CC=C1)[N+](=O)[O-] | C10H10N4O2S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
catalyst | titanium trichloride | 44 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 3-(o-aminobenzyl)-5-methylmercapto-1,2,4-triazole | NC1=C(CC2=NNC(=N2)SC)C=CC=C1 | C10H12N4S
